US06281221B1
Preparation of 2-(4-methylphenyl)-1,3-dithian-5-one
131 g of methyl 2-(4-methylphenyl)-1,3-dithia-cyclohexan-5-one-4-carboxylate (0.464 mol) were heated under reflux with 350 ml of 2N sulfuric acid for 6 hours, with intensive stirring. After cooling, the mixture was decanted and the residue was taken up in ethyl acetate. The organic phase was washed with bicarbonate solution and water, dried and concentrated. For further purification, the solid residue was suspended in diisopropyl ether and filtered off with suction. This gave 62.7 g of yellow crystals (60.2% of theory), melting point: 112-113° C.

reactant | methyl 2-(4-methylphenyl)-1,3-dithia-cyclohexan-5-one-4-carboxylate | 0.464 mol, 131 g | CC1=CC=C(C=C1)C1SCC(C(S1)C(=O)OC)=O | C13H14O3S2
solvent | sulfuric acid | 2N, 350 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(4-methylphenyl)-1,3-dithian-5-one | CC1=CC=C(C=C1)C1SCC(CS1)=O | C11H12OS2
